US07122543B2
5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(3-methoxyphenyl)benzoic acid
5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(3-methoxy-phenyl)benzoic acid (1.03 g, 2.2787 mmol) was dissolved in a mixed solvent of acetonitrile (30 ml) and water (10 ml), then CAN (3.12 g, 5.6934 mmol) was added thereto at room temperature and the mixture was stirred for 3 hour. The reaction solution was poured into water and extracted with ether. The extract was washed with water and dried and the solvent was evaporated therefrom. The residue was purified by silica gel column chromatography (5% methanol-methylene chloride) to give the title compound (817 mg, 1.9360 mmol, 85%).

reactant | 5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(3-methoxy-phenyl)benzoic acid | 2.2787 mmol, 1.03 g | COC=1C(=C(CC=2C=CC(=C(C(=O)O)C2)C2=CC(=CC=C2)OC)C(=C(C1OC)OC)OC)C | C26H28O7
reactant | CAN | 5.6934 mmol, 3.12 g | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | water | 10 ml | O | H2O
product | 5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(3-methoxyphenyl)benzoic acid | 1.9360 mmol, 817 mg, 85% | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)O)C1)C1=CC(=CC=C1)OC)C)=O | C24H22O7
